US07884207B2
To a solution of ethyl 4-(aminomethyl)-4-hydroxypiperidine-1-carboxylate (22.4 mmol, prepared as described above) in dichloromethane (90 mL) was added triethylamine (3.12 mL, 22.4 mmol) and 4-chloro-3-nitroquinoline (3.71 g, 17.8 mmol). The mixture was sonicated and more dichloromethane (10 mL) was added in order to dissolve the 4-chloro-3-nitroquinoline. The solution was allowed to stand at rt for 18 h, then was poured into a separatory funnel and washed with 1 M NaOH (25 mL), water (2×30 mL), and brine (30 mL). The organic layer was dried over MgSO4, filtered, and concentrated to yield a yellow foam that was crystallized from isopropanol. The solid was isolated by filtration and dried to afford ethyl 4-hydroxy-4-{[(3-nitroquinolin-4-yl)amino]methyl}piperidine-1-carboxylate as yellow crystals (4.53 g, 54%).

reactant | ethyl 4-(aminomethyl)-4-hydroxypiperidine-1-carboxylate | 22.4 mmol | NCC1(CCN(CC1)C(=O)OCC)O | C9H18N2O3
reactant | triethylamine | 22.4 mmol, 3.12 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-nitroquinoline | 17.8 mmol, 3.71 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | ethyl 4-hydroxy-4-{[(3-nitroquinolin-4-yl)amino]methyl}piperidine-1-carboxylate | 4.53 g, 54% | OC1(CCN(CC1)C(=O)OCC)CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C18H22N4O5
